data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_428895_0,[C:1]([C:2]([O:8][H:10])([H:15])[H:16])([C:3]([C:5]([C:4]([H:19])([H:20])[H:21])=[O:9])([H:17])[H:18])([N:6]([H:11])[H:12])[N:7]([H:13])[H:14]>>[C:1](\[C:3]([C:5]([C:2]([O:8][H:10])([H:15])[H:16])([C:4]([H:19])([H:20])[H:21])[O:9][H:11])([H:17])[H:18])(=[N:6]/[H:12])[N:7]([H:13])[H:14],57.15081749999016
MR_93293_0,[C:1](/[C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[N:6]\[N:5]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]\[H:7])[N:6]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14],70.13567500002225
MR_103525_1,[C:1](\[C:2]([C:5]([C:7]([C:3]([C:4]([H:21])([H:22])[H:23])([H:17])[H:18])([N:9]([H:12])[H:13])[H:16])=[C:8]([H:19])[H:20])([H:14])[H:15])(=[N:6]/[H:11])[H:10]>>[C:1]([C:2]([C:5](/[C:7](=[N:9]/[H:13])[H:16])=[C:8]([H:19])[H:20])([H:14])[H:15])([C:3]([C:4]([H:21])([H:22])[H:23])([H:17])[H:18])([N:6]([H:11])[H:12])[H:10],67.68089499997785
MR_73652_0,[C@@:1]([C:2]([H:13])([H:14])[H:15])([C:4](=[O:8])[H:10])(/[C:5](=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])[H:11])[O:7][H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](\[C@:6]([C:3]([H:16])([H:17])[H:18])([C:4](=[O:8])[H:10])[H:12])[H:11])[O:7][H:9],58.38762000000642
MR_220055_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:4]([O:6][H:8])[H:9])[O:5][H:7]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:4]([O:5][H:7])[H:9])[O:6][H:8],65.78270749999064
MR_310984_1,[C@@:1]1([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:9])[H:10])/[C:6](=[N:8]/[H:13])[H:14])[C:2]([H:11])([H:12])[O:7]1>>[C:1]1([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:9])[H:10])/[C:6](=[N:8]/[H:13])[H:14])[C:2]([H:11])([H:12])[O:7]1,60.7733749999754
MR_1775_0,[C:1]([C:2]([C:3](=[O:7])[H:9])([C:4](=[C:5]([H:14])[H:15])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1](/[C:2](=[C:3](/[O:7][H:8])[H:9])[O:6][C:4](=[C:5]([H:14])[H:15])[H:10])([H:11])([H:12])[H:13],72.39090999999974
MR_436682_1,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([N:4]([H:10])[H:11])[O:5][H:7])([O:6][H:8])[H:9]>>[C@@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([N:4]([H:10])[H:11])[O:6][H:8])([O:5][H:7])[H:9],58.93605499997719
MR_210473_0,[C:1](/[N:8]=[C:4]([C:2]([H:14])([H:15])[H:16])/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:6](\[O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:8]1[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5]([C:3]([H:17])([H:18])[H:19])[C:6]1([O:7][H:9])[H:10])([H:11])([H:12])[H:13],45.61172000001747
MR_481594_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])(/[C:4]([N:5]([H:9])[H:10])=[N:7]/[H:11])[N:6]=[O:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])=[C:4]([N:5]([H:9])[H:10])[N:7]([N:6]=[O:8])[H:11],27.90429749999518
MR_296332_1,[C:1](/[C:3](=[C:6]([C:4](/[C:2]([H:17])([H:18])[H:19])=[C:7](/[N:5]([H:10])[H:11])[H:13])\[H:12])[O:8][H:9])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([O:8][H:9])[C:6]([H:12])=[C:4]([C:2]([H:17])([H:18])[H:19])[C:7]1([N:5]([H:10])[H:11])[H:13])([H:14])([H:15])[H:16],43.84593500001699
MR_461999_1,[C:1](=[C:2](/[N:4][C:6][N:5][H:8])[H:10])(\[O:3][H:7])[H:9]>>[C@:1]1([O:3][H:7])([H:9])[C:2]([H:10])[N:4]=[C:6]1[N:5][H:8],44.33224750000193
MR_285740_0,[C:1]([O:5][N:3]([C:2]([H:13])([H:14])[H:15])[N:6][N:7][N:4]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:5][N:7]([N:4]([H:8])[H:9])[N:6][N:3][C:2]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12],52.34918749998556
MR_300869_0,[C:1](/[C:3](=[C:4](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])([O:5][O:6][H:9])([O:7][H:10])[O:8][H:11]>>[C:1]1([O:7][H:10])([O:8][H:11])[C@:3]([O:5][O:6][H:9])([H:12])[C@:4]1([C:2]([H:14])([H:15])[H:16])[H:13],55.27271000002358
MR_464726_2,[C:1]1([C:4]([H:14])([H:15])[H:16])([N:5]([H:9])[H:10])[C:2]([C:6](=[O:7])[H:13])([H:8])[C:3]1([H:11])[H:12]>>[C:1](\[C:2]1([H:8])[C:3]([H:11])([H:12])[C:6]1([O:7][H:10])[H:13])([C:4]([H:14])([H:15])[H:16])=[N:5]/[H:9],40.07466000001486
MR_358598_0,[C:1]([C:2]([N:8]([H:17])[H:18])([H:19])[H:20])([N:3]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[N:7]([H:15])[H:16]>>[C:1]([C:2]([N:3]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])([H:19])[H:20])([N:6]([H:13])[H:14])([N:7]([H:15])[H:16])[N:8]([H:17])[H:18],72.47875999995628
MR_421819_0,[C:1]([C:3](=[C:5]([H:16])[H:18])[H:14])([O:7][C:2]([C:4](=[C:6]([H:17])[H:19])[H:15])([O:9][H:11])[H:13])([O:8][H:10])[H:12]>>[C:1]([C:3](=[C:5]([H:16])[H:18])[H:14])([O:7][C:6](/[C:4](=[C:2](/[O:9][H:11])[H:13])[H:15])([H:17])[H:19])([O:8][H:10])[H:12],54.769454999974414
MR_31379_0,[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:3](\[C:6]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:14])[O:7][H:8])[H:9]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:3](=[C:6](/[N:5]([H:12])[H:13])[H:14])[O:7][H:8])([N:4]([H:10])[H:11])[H:9],60.2274499999983
MR_514992_1,[C:1](/[C:5](=[N:4]/[N:7]([H:10])[H:11])[C:6]([C:2]([H:17])([H:18])[H:19])([C:3]([H:20])([H:21])[H:22])/[C:8](=[N:9]\[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]([N:4]([N:7]([H:10])[H:11])/[C:8](=[N:9]\[H:12])[H:13])=[C:6]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16],70.11057499994294
